US06500835B2
1.0 g (3.66 mmol) of 4-t-butoxycarbonyl-3-hydroxybenzenesulfonamide and 1.12 g (3.66 mmol) of methyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 7 to obtain 1.79 g (yield 100%) of methyl 2-{[(4-t-butoxycarbonyl-3-hydroxybenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, DMSO-d6): 1.57 (9H, s), 3.87 (3H, s), 7.14 (1H, d), 7.40-7.45 (2H, m), 7.85 (1H, d), 7.92 (1H, d), 8.32 (1H, d), 10.13 (1H, s), 10.82 (1H, s)

reactant | 4-t-butoxycarbonyl-3-hydroxybenzenesulfonamide | 3.66 mmol, 1.0 g | C(C)(C)(C)OC(=O)C1=C(C=C(C=C1)S(=O)(=O)N)O | C11H15NO5S
reactant | methyl 4-chloro-2-N-phenoxycarbonylanthranilate | 3.66 mmol, 1.12 g | ClC=1C=C(C(C(=O)OC)=CC1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
product | methyl 2-{[(4-t-butoxycarbonyl-3-hydroxybenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate | 1.79 g, yield 100% | C(C)(C)(C)OC(=O)C1=C(C=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C(=O)OC)C=CC(=C1)Cl)O | C20H21ClN2O8S
